### PR TITLE
feat(MultiTapeTM): add input and work tape rewinding

### PR DESCRIPTION
**Pull request by SamuelSchlesinger**
Add a shared controller for rewinding native input and contiguous work-tape contents. Use it to transform any machine into one that halts with its input head at the initial position, preserving output and work tapes.

Part 4/6 of the TM composition stack. Depends on #872. Next: #874.

Validation: strict build, import checks, full tests, and linters.

This PR was composed with Astra via Codex.

### CODE REVIEW

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/README.md [hunk 1]
```diff
@@ -9,3 +9,5 @@ These modules describe executable machines and their effects on configurations a
   contributes one visited cell to space. Arbitrary data on unused tapes is preserved.
 - `OutputToWorkTape` redirects output to one fresh tape, including the symbol on a halting step.
 - `InputFromWorkTape` simulates the native input on a work tape, preserving boundary clamping.
+- `Rewind` shares one controller between native-input and work-tape rewinding. Work-tape rewind
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/README.md:14]: I think this explanation makes uses too many terms that only become clear once you read the files.

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Rewind.lean [hunk 2]
```diff
@@ -0,0 +1,177 @@
...
+
+public import Cslib.Computability.Machines.Turing.MultiTape.Plumbing.TapeContents
+public import Cslib.Computability.Machines.Turing.MultiTape.Plumbing.Basic
+
+/-!
+# Rewinding a tape
+
+One controller rewinds either the native input head or a selected work-tape head. It first moves
+left, scans left through nonblank cells, then moves right and halts. The initial left move handles
+a head starting on the right blank boundary, including when the contents are empty.
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Rewind.lean:19]:
```suggestion
This file defines a Turing machine that can rewind one tape in the sense of resetting the tape head
to the start of the tape contents:
If the tape contents are contiguous starting from the initial head position to the right and the
head is positioned one cell right of the contents, then this machine will move the head to the
leftmost non-blank cell.
It first moves one cell left, scans left through non-blank cells, then moves right and halts.
This proceduce also works when the tape is empty.
```

File: Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Rewind.lean [hunk 3]
```diff
@@ -0,0 +1,177 @@
...
+      apply Fin.ext
+      simp [moveInputPos, show n < input.length + 2 by omega]
+    rw [hm]
+    exact ih (by omega)
+
+/-- Rewind the native input from any legal head position. Both blank boundaries and empty input
+are allowed. Only the input head and control state change. -/
+lemma runFrom_input (cfg : Cfg k Symbol State input) :
+    (rewind .input).runFrom (inputCfg cfg (some .start) cfg.inputPos)
+        (cfg.inputPos.val - 1 + 2) = inputCfg cfg none 1 := by
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Plumbing/Rewind.lean:176]: Is the `-1` useful?

File: Cslib/Computability/Machines/Turing/MultiTape/NormalForms/RewindInput.lean [hunk 4]
```diff
@@ -0,0 +1,83 @@
...
+
+module
+
+public import Cslib.Computability.Machines.Turing.MultiTape.Plumbing.Rewind
+public import Cslib.Computability.Machines.Turing.MultiTape.Plumbing.Sequential
+
+/-!
+# Halting with the input head rewound
+
+`rewindInput` follows an arbitrary machine with the native-input rewind controller. It preserves
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/NormalForms/RewindInput.lean:15]:
```suggestion
`rewindInput` establishes "rewound input normal form" for a Turing machine: It preserves
```

File: Cslib/Computability/Machines/Turing/MultiTape/NormalForms/RewindInput.lean [hunk 5]
```diff
@@ -0,0 +1,83 @@
...
+
+/-- Normalize a machine to halt with its input head at the initial position. -/
+def rewindInput (tm : MultiTapeTM k Symbol State) : MultiTapeTM k Symbol (State ⊕ RewindState) :=
+  tm.seq (rewind .input)
+
+/-- Exact input-rewind execution from any configuration, once the first machine reaches its
+least halting time. Everything other than the input head and control state is preserved. -/
+lemma runFrom_rewindInput (tm : MultiTapeTM k Symbol State) (cfg : Cfg k Symbol State input)
+    (u : ℕ) (hhalt : (tm.runFrom cfg u).state = none)
+    (hactive : ∀ m < u, (tm.runFrom cfg m).state ≠ none) :
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/NormalForms/RewindInput.lean:34]: I saw this multiple times now (the step where the machine halts) - maybe we should create a definition for that?

**Review by crei — CHANGES_REQUESTED** [review]
